US07517995B2
tert-butyl[2-(5-isopropyl-[1,3,4]oxadiazol-2-yl)-ethyl]-carbamate
20.00 g (43.00 mmol) PS-triphenylphosphine are placed in 240 ml dichloromethane, 10.88 g (42.87 mmol) iodine are added. The mixture is stirred for 0.1 hours at ambient temperature, then 12.10 ml (87.29 mmol) triethylamine are added dropwise. 5.83 g (21.33 mmol) tert-butyl[3-(N′-isobutyryl-hydrazino)-3-oxo-propyl]-carbamate dissolved in 150 ml dichloromethane are added. The reaction mixture is stirred for 24 hours at ambient temperature, then the precipitate is filtered off. The filtrate is evaporated down and purified by chromatography.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 42.87 mmol, 10.88 g | II | I2
reactant | triethylamine | 87.29 mmol, 12.10 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl[3-(N′-isobutyryl-hydrazino)-3-oxo-propyl]-carbamate | 21.33 mmol, 5.83 g | C(C)(C)(C)OC(NCCC(=O)NNC(C(C)C)=O)=O | C12H23N3O4
solvent | dichloromethane | 240 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | tert-butyl[2-(5-isopropyl-[1,3,4]oxadiazol-2-yl)-ethyl]-carbamate | C(C)(C)(C)OC(NCCC=1OC(=NN1)C(C)C)=O | C12H21N3O3
